* Schematics Netlist *



R_R3         Vx Vy  0.5  
I_I1         0 Vx DC 2A  
R_R6         0 Vx  1  
V_V1         Vy 0 14.5V
R_R5         0 V0  0.25  
R_R4         V0 Vy  0.125  
E_E3         Vx V0 V0 0 2
