* Schematics Netlist *



R_R1         $N_0002 $N_0001  10  
C_C2         0 $N_0001  20m  
C_C1         $N_0003 $N_0002  10m  
R_R2         0 $N_0003  25  
L_L1         $N_0004 $N_0003  8  
E_E1         $N_0002 0 $N_0003 0 5
V_V5         $N_0004 0 DC 0 AC 0
+SIN 0 20 0.796 0 0 -90
