* Schematics Netlist *



R_R2         0 $N_0001  8  
C_C1         0 $N_0002  0.05  
R_R1         $N_0003 $N_0002  4  
V_V1         $N_0004 0 12V
L_L1         $N_0002 $N_0001  4H  
X_U1         $N_0004 $N_0003 Sw_tOpen PARAMS: tOpen=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
