* Schematics Netlist *



R_R1         $N_0002 $N_0001  53.05  
C_C1         $N_0003 $N_0001  1000n  
V_V2         $N_0002 $N_0003 DC 0 AC 0
+SIN 0 1 3000 0 0 0
