* Schematics Netlist *



L_L1         $N_0001 $N_0002  1  
R_R1         $N_0002 $N_0003  3  
C_C1         0 $N_0003  0.083  
I_I2         $N_0003 0 DC -1.67  
V_V1         $N_0001 0 DC 0 AC 0
+SIN 0 12.35 0.955 0 0 0
