* Schematics Netlist *



R_R5         0 $N_0001  1k  
R_R1         zeynep1182820 $N_0002  100k  
C_C1         zeynep1182820vin $N_0002  100n  
R_R2         0 zeynep1182820  22k  
C_C2         $N_0001 zeynep1182820vo  1u  
R_R3         0 zeynep1182820vo  100mega  
R_R6         zeynep1182820 $N_0003  47k  
Q_Q1         $N_0003 zeynep1182820 $N_0001 Q2N2222
V_V3         $N_0003 0 10V
V_V1         zeynep1182820vin 0 DC 0 AC 0
+SIN 0 1 1k 0 0 0
